US04742069
A slow stream of dry methylamine was introduced at 20°-25° during 1 hour into a suspension of 4 g of 2-isopropyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide in 40 ml of methanol, whereby a clear yellow solution resulted after about 30 minutes. Thereupon, the mixture was stirred further at room temperature for 5 hours, concentrated to dryness under reduced pressure and the crystalline residue was recrystallized from isopropyl. There were obtained 3.8 g of N-isopropyl-4-methylamino-2-oxo-3-pentenesulfonamide in the form of colorless crystals, m.p. 83°-85°.

reactant | methylamine | CN | CH5N
reactant | 2-isopropyl-3-methyl-1,2-thiazin-5(6H)-one 1,1-dioxide | 4 g | C(C)(C)N1S(CC(C=C1C)=O)(=O)=O | C8H13NO3S
solvent | methanol | 40 ml | CO | CH4O
product | N-isopropyl-4-methylamino-2-oxo-3-pentenesulfonamide | 3.8 g | C(C)(C)NS(=O)(=O)CC(C=C(C)NC)=O | C9H18N2O3S
